US06486184B2
To a solution of rac-2-(3,4-dichloro-phenyl)-N-thiazol-2-yl-acetamide (185 mg, 0.64 mmol) in tetrahydrofuran (15 mL), previously cooled to −78° C., was added slowly a 1.0 M solution of lithium bis(trimethylsilyl)amide (1.3 mL, 1.3 mmol). The solution was stirred for 15 min at −78° C., then cyclopentanecarbonyl chloride (0.08 mL, 0.64 mmol) was dropwise added. The reaction mixture was stirred for an additional 60 min at −78° C. before it was quenched by the addition of a saturated ammonium chloride solution (10 mL). The mixture was then extracted with ethyl acetate (3×10 mL), dried over sodium sulfate, filtered and concentrated in vacuo. The product was purified by flash chromatography (Merck Silica gel 60, 230-400 mesh, 80/20 hexanes/ethyl acetate) to afford 3-cyclopentyl-2-(3,4-dichloro-phenyl)-3-oxo-N-thiazol-2-yl-propionamide (98 mg, 40% yield) as a yellow-orange solid: EI-HRMS m/e calcd for C17H16N2O2SCl2 (M+) 382.0309, found 382.0309.

reactant | rac-2-(3,4-dichloro-phenyl)-N-thiazol-2-yl-acetamide | 0.64 mmol, 185 mg | ClC=1C=C(C=CC1Cl)CC(=O)NC=1SC=CN1 | C11H8Cl2N2OS
reactant | lithium bis(trimethylsilyl)amide | 1.3 mmol, 1.3 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | cyclopentanecarbonyl chloride | 0.64 mmol, 0.08 mL | C1(CCCC1)C(=O)Cl | C6H9ClO
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 3-cyclopentyl-2-(3,4-dichloro-phenyl)-3-oxo-N-thiazol-2-yl-propionamide | 98 mg, 40% yield | C1(CCCC1)C(C(C(=O)NC=1SC=CN1)C1=CC(=C(C=C1)Cl)Cl)=O | C17H16Cl2N2O2S
